US04764586
3,3-Bis(methoxyethoxymethyl)oxetane (BMEMO)
To a 5 liter, three-neck flask, fitted with a reflux condenser, a stirrer, and a thermometer, were added 1824 g (24 mole) of 2-methoxyethanol followed by 139 g (6 mole) of sodium metal. The flask temperature was then raised to mild reflux and thus maintained until all the sodium had dissolved. At this time, 465 g (3 mole) of 3,3-bis(chloromethyl)oxetane was added and heating maintained for a further 24 hr. The mixture was then cooled to room temperature and the precipitated sodium chloride removed by filtration. The filtrate was dissolved in an excess of water, extracted with four portions of 500 ml methylene chloride, and then the combined organic layers were dried over magnesium sulfate. The solvent was then removed by evaporation and the required monomer isolated by fractional distillation, the fraction boiling at 85° C. and 0.1-mm pressure being collected. Redistillation from calcium hydride yielded 487 g of polymerizable grade monomer.

reactant | 2-methoxyethanol | 24 mole, 1824 g | COCCO | C3H8O2
reactant | sodium | 6 mole, 139 g | [Na] | Na
reactant | 3,3-bis(chloromethyl)oxetane | 3 mole, 465 g | ClCC1(COC1)CCl | C5H8Cl2O
product | 3,3-Bis(methoxyethoxymethyl)oxetane | COCCOCC1(COC1)COCCOC | C11H22O5
